* C:\Users\TheBear\ECE411\Antenna_Filters\LTSpice_filter_designs\433MHz filter with 14nH inductors.asc
L3 N001 OUT 14n
C5 In 0 15p
C6 OUT 0 15p
C7 OUT 0 8.2p
C2 In N001 10p
C3 N001 OUT 2.4p
R§Load OUT 0 50
V3 In 0 SINE(0 5 1k) AC 1
R3 In In 50
.ac dec 100 10 100t
.backanno
.end
