* C:\Users\TheBear\ECE411\Antenna_Filters\LTSpice_filter_designs\433MHz filter with added low pass_vs 2.asc
L3 N001 N002 14n
C5 In 0 15p
C6 N002 0 15p
C7 N002 0 8.2p
C2 In N001 10p
C3 N001 N002 2.4p
R§Load OUT 0 50
V3 In 0 SINE(0 5 1k) AC 1
R3 In In 50
L1 N002 N003 6.8n
L2 N003 OUT 15n
C1 N003 0 6.8p
C4 OUT 0 2.7p
.ac dec 100 10 100t
.backanno
.end
