* C:\users\jake\My Documents\ECE411\RF_Materials\Antenna_Filters\LTSpice_filter_designs\DualOutPutFilter.asc
C3a N003 0 15p
C1 N002 N003 2.2p
R§Load s21 0 50
R3 0 s11 1e9
L1 N002 N003 5.6n
C3b s21 0 8.2p
Cin Vin 0 15p
L2 N003 s21 15n
C3 N001 0 100n
L3 N001 Vin 22n
R1 N004 Vin 50
V1 N004 0 AC 2
V2 Vin s11 AC 1
C2 Vin N002 15p
C4 N006 0 15p
C5 N005 N006 2.2p
R§Load1 N008 0 50
L4 N005 N006 15n
C6 N008 0 8.2p
Cin1 RFIO 0 15p
L5 N006 N008 15n
C7 N001 0 100n
L6 N001 RFIO 22n
C8 RFIO N005 15p
R2 0 N009 1e9
R4 N007 RFIO 50
V3 N007 0 AC 2
V4 RFIO N009 AC 1
.AC dec 10000 100k 100G
* 24p
* Cauer filter
* AC blocking network
* Lowpass filter
* 24p
* Cauer filter
* AC blocking network
* Lowpass filter
.backanno
.end
